US07476666B2
Step 5: N-(4-fluorobenzyl)-3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide
To a solution of 3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxylic acid (75 mg, 0.27 mmol) in DMF were added HOBT (46 mg, 0.3 mmol), EDC (76 mg, 0.4 mmol), DIEA (0.05 mL, 0.29 mmol), and 4-fluorobenzylamine (50 mg, 0.4 mmol). The reaction mixture was stirred at room temperature for 24 hours. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc and aqueous sodium bicarbonate. The EtOAc layer was dried (MgSO4), filtered and the solvent was removed under reduced pressure. The residue was triturated in MeOH to give the product as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 8.91 (t, J=5.9 Hz, 1H), 8.26 (d, J=8.0 Hz, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.54 (t, J=7.9 Hz, 1H), 7.39-7.44 (m, 3H), 7.17 (t, J=8.9 Hz, 2H), 4.49 (d, J=6.1 Hz, 2H), 4.02 (s, 3H), 3.61 (s, 3H); ES MS (M+1)=381.

reactant | 3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxylic acid | 0.27 mmol, 75 mg | COC=1C(=NN2C1C(N(C1=CC=CC=C21)C)=O)C(=O)O | C13H11N3O4
reactant | HOBT | 0.3 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.4 mmol, 76 mg
reactant | DIEA | 0.29 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorobenzylamine | 0.4 mmol, 50 mg | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-fluorobenzyl)-3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide | FC1=CC=C(CNC(=O)C2=NN3C(C(N(C4=CC=CC=C34)C)=O)=C2OC)C=C1 | C20H17FN4O3
